US07105548B2
2-Cyanopyridine (5.2 g, 50 mmol) and hydrazine hydrate (2.95 g, 50 mmol) were mixed and a small amount of ethanol was added to obtain a clear solution. After standing overnight at ambient temperature, the resulting white crystals were collected by filtration. The resulting product was washed with diethyl ether and dried in the air to afford pyridine-2-carbohydrazonamide.

reactant | 2-Cyanopyridine | 50 mmol, 5.2 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | hydrazine hydrate | 50 mmol, 2.95 g | O.NN
solvent | ethanol | C(C)O | C2H6O
product | pyridine-2-carbohydrazonamide | N1=C(C=CC=C1)C(N)=NN | C6H8N4
